US09108969B2
Step A: Preparation of tert-Butyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
tert-Butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.563 g, 1.960 mmol), 4-(chloromethyl)-1-cyclopentyl-2-(trifluoromethyl)benzene (0.515 g, 1.960 mmol) and cesium carbonate (0.703 g, 2.156 mmol) in DMF (4 mL) were heated to 50° C. for 16 h in a 20 mL sealed scintillation vial. The reaction mixture was filtered by vacuum filtration through Celite® and washed with EtOAc (3×10 mL). The filtrate was concentrated under reduced pressure. The residue was taken up in EtOAc (25 mL), washed with water (2×25 mL), saturated NaCl (20 mL), dried over MgSO4 and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give a yellow sticky oil. A precipitate, formed by addition of hexanes to the oil, was collected by filtration, was washed with hexanes (3×20 mL) and dried (vacuum oven) to provide the title compound as a white solid (0.6273 g). LCMS m/z=514.4 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.44 (s, 9H), 1.57-1.72 (m, 4H), 1.81-1.87 (m, 2H), 1.95-2.04 (m, 2H), 2.15-2.24 (m, 1H), 2.53-2.67 (m, 2H), 2.71-2.81 (m, 1H), 3.20-3.27 (m, 1H), 3.57 (quintet, J=7.75 Hz, 1H), 3.91-3.99 (m, 1H), 4.06-4.13 (m, 1H), 5.13 (s, 2H), 5.99 (s, 1H), 6.77 (dd, J=8.65, 2.08 Hz, 1H), 7.07 (d, J=2.27 Hz, 1H), 7.19 (d, J=8.72 Hz, 1H), 7.62 (d, J=8.72 Hz, 1H) 7.68-7.70 (m, 2H).

reactant | tert-Butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 1.960 mmol, 0.563 g | OC1=CC=2C=C3N(C2C=C1)CCC3CC(=O)OC(C)(C)C | C17H21NO3
reactant | 4-(chloromethyl)-1-cyclopentyl-2-(trifluoromethyl)benzene | 1.960 mmol, 0.515 g | ClCC1=CC(=C(C=C1)C1CCCC1)C(F)(F)F | C13H14ClF3
reactant | cesium carbonate | 2.156 mmol, 0.703 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.6273 g | C1(CCCC1)C1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=C1)C(F)(F)F | C30H34F3NO3
